US06900215B2
4-Fluoro-3-(3-fluoropyridin-2-yl)phenylboronic acid was coupled with 3-bromo-7-trifluoromethylimidazo[1,2-α]pyrimidine by the method of Example 78. Purification by chromatography on silica gel eluting with dichloromethane containing 3.5% methanol and crystallisation from methanol gave 3-[4-fluoro-3-(3-fluoropyridin-2-yl)phenyl]-7-trifluoromethylimidazo[1,2-α]pyrimidine: δH (400 MHz, DMSO) 9.28 (1H, d, J 7), 8.61 (1H, m), 8.31 (1H, s), 7.90-7.99 (3H, m), 7.62 (2H, m), 7.52 (1H, d, J 7); m/z (ES+) 377 (MH+).

reactant | 4-Fluoro-3-(3-fluoropyridin-2-yl)phenylboronic acid | FC1=C(C=C(C=C1)B(O)O)C1=NC=CC=C1F | C11H8BF2NO2
reactant | 3-bromo-7-trifluoromethylimidazo[1,2-α]pyrimidine | BrC1=CN=C2N1C=CC(=N2)C(F)(F)F | C7H3BrF3N3
product | 3-[4-fluoro-3-(3-fluoropyridin-2-yl)phenyl]-7-trifluoromethylimidazo[1,2-α]pyrimidine | FC1=C(C=C(C=C1)C1=CN=C2N1C=CC(=N2)C(F)(F)F)C2=NC=CC=C2F | C18H9F5N4
